US04178293
To the above acid (1 g, 4.6 mmol) in 12 ml THF is added 8 ml of DMF and potassium carbonate (0.63 g, 5 mmol) followed by α-cyano-m-phenoxybenzyl mesylate (1.31 g, 5 mmol). The reaction mixture is stirred, under nitrogen, at RT for 20 hours. The reaction mixture is then diluted with ether. The organic layer is washed with water and brine, dried and solvent removed under vacuum. The residue is purified by prep. TLC to give α-cyano-m-phenoxybenzyl 2-(2-isoindolinyl)-3-methylbutanoate.

reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 5 mmol, 0.63 g | C([O-])([O-])=O.[K+].[K+]
reactant | α-cyano-m-phenoxybenzyl mesylate | 5 mmol, 1.31 g | S(C)(=O)(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N | C15H13NO4S
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | α-cyano-m-phenoxybenzyl 2-(2-isoindolinyl)-3-methylbutanoate | C1N(CC2=CC=CC=C12)C(C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C(C)C | C27H26N2O3
